US07919519B2
To a mixture of (4-(5-benzyl-2H-indazol-2-yl)-3-fluorophenyl)methanol (100 mg, 0.30 mmol), 4-methylmorpholine N-oxide (43 mg, 0.36 mmol) and activated molecular sieves (200 mg) in dichloromethane (10 mL) was added TPAP (10.6 mg, 0.03 mmol) at room temperature. After stirred overnight, the reaction mixture was filtered, concentrated and purified by silica gel column chromatography (hexane/ethyl acetate) to give 4-(5-benzyl-2H-indazol-2-yl)-3-fluorobenzaldehyde as white solid: 1H NMR (400 MHz, CD3OD) δ 10.0 (d, J=1.6 Hz, 1H), 8.55 (m, 1H), 8.41 (t, J=7.4 Hz, 1H), 7.84 (m, 2H), 7.68 (d, J=9.0 Hz, 1H), 7.46 (s, 1H), 7.34-7.30 (m, 2H), 7.27-7.19 (m, 4H), 4.06 (s, 2H); 19F NMR (376 MHz, CD3OD) δ −122.3. MS (ESI) m/z: Calculated: 330.36; Observed: 331.2 (M++1).

reactant | (4-(5-benzyl-2H-indazol-2-yl)-3-fluorophenyl)methanol | 0.30 mmol, 100 mg | C(C1=CC=CC=C1)C1=CC2=CN(N=C2C=C1)C1=C(C=C(C=C1)CO)F | C21H17FN2O
reactant | 4-methylmorpholine N-oxide | 0.36 mmol, 43 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | TPAP | 0.03 mmol, 10.6 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 4-(5-benzyl-2H-indazol-2-yl)-3-fluorobenzaldehyde | C(C1=CC=CC=C1)C1=CC2=CN(N=C2C=C1)C1=C(C=C(C=O)C=C1)F | C21H15FN2O
